US05869492
A solution of phenyltrimethylammonium tribromide (2.8 g) in tetrahydrofuran (5 ml) was added dropwise under nitrogen over 30 minutes to a stirred solution of 3-acetylbenzo[b]thiophen-5-carbonitrile (1.5 g) in tetrahydrofuran (50 ml), then the mixture was stirred at ambient temperature for 2 hours. The resulting solid was collected by filtration and triturated with a hot mixture of ethanol (21 ml) and acetic acid (14 ml). The product was collected by filtration and dried in vacuo to give 3-(bromoacetyl)benzo[b]thiophen-5-carbonitrile as a white solid (1.05 g).

reactant | phenyltrimethylammonium tribromide | 2.8 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 3-acetylbenzo[b]thiophen-5-carbonitrile | 1.5 g | C(C)(=O)C=1C2=C(SC1)C=CC(=C2)C#N | C11H7NOS
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(bromoacetyl)benzo[b]thiophen-5-carbonitrile | 1.05 g | BrCC(=O)C=1C2=C(SC1)C=CC(=C2)C#N | C11H6BrNOS
